US05300498
6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine
2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde acetylhydrazone (2.30 g, 8.23 mmole) was warmed at 90° C. in 20 mL of hydrazine hydrate. After 30 minutes, water was added to the reaction mixture and the product was filtered off. The aqueous filtrate was concentrated under reduced pressure and the resulting solid triturated with water. This product was combined with the product that had been previously filtered off and the two were recrystallized together from EtOAc, giving 1.15 g, (64%), mp 196°-197° C.

reactant | 2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde acetylhydrazone | 8.23 mmole, 2.30 g | C(C)(=O)NN=CC=1C(=NC(=CC1)N1CCN(CC1)C)F | C13H18FN5O
reactant | water | O | H2O
solvent | hydrazine hydrate | 20 mL | O.NN
product | 6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine | CN1CCN(CC1)C1=CC=C2C(=N1)NN=C2 | C11H15N5
